US07732463B2
1-Bromo-2-(2-chloro-4-methyl-phenylsulfanyl)-5-fluoro-benzene (intermediate for 2n).
Prepared from 2-chloro-4-methyl-benzenethiol and 2-bromo-4-fluoro-1-iodo-benzene.

reactant | 2-chloro-4-methyl-benzenethiol | ClC1=C(C=CC(=C1)C)S | C7H7ClS
reactant | 2-bromo-4-fluoro-1-iodo-benzene | BrC1=C(C=CC(=C1)F)I | C6H3BrFI
product | 1-Bromo-2-(2-chloro-4-methyl-phenylsulfanyl)-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)SC1=C(C=C(C=C1)C)Cl | C13H9BrClFS
